US06294668B1
(E)-(6R,7R)-7-[2-(3,4-Dichloro-phenylsulfanyl)-acetylamino]-3-[1-[1-[(3-fluoro-4-hydroxy-phenylcarbamoyl)-methyl]-pyridin-1-ium-4-ylmethyl]-2-oxo-pyrrolidin-3-ylidenemethyl]-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylate
With 60.0 mg (0.36 mmol) 1,1′-carbonyldiimidazole, 85.0 mg (0.36 mmol) [(3,4-dichlorophenyl)thio]acetic acid and 200.0 mg (0.30 mmol) (E)-(6R,7R)-7-amino-3-[1-[1-[(3-fluoro-4-hydroxy-phenylcarbamoyl)-methyl]-pyridin-1-ium-4-ylmethyl]-2-oxo-pyrrolidin-3-ylidenemethyl]-8-oxo-5-thia-1-aza-bicyclo[4.2 .0]oct-2-ene-2-carboxylate trifluoroacetate in 4 ml N,N-dimethylacetamide. The resulting solid was purified by column chromatography on MCI gel (75-150μ, Mitsubishi Kasei Corporation) with a gradient of water: acetonitrile (1:0, 4:1, 3:1, 2:1, 1:1). The organic solvent was stripped off at a rotary evaporator and the aqueous phase was freeze-dried.

reactant | 1,1′-carbonyldiimidazole | 0.36 mmol, 60.0 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | [(3,4-dichlorophenyl)thio]acetic acid | 0.36 mmol, 85.0 mg | ClC=1C=C(C=CC1Cl)SCC(=O)O | C8H6Cl2O2S
reactant | (E)-(6R,7R)-7-amino-3-[1-[1-[(3-fluoro-4-hydroxy-phenylcarbamoyl)-methyl]-pyridin-1-ium-4-ylmethyl]-2-oxo-pyrrolidin-3-ylidenemethyl]-8-oxo-5-thia-1-aza-bicyclo[4.2 .0]oct-2-ene-2-carboxylate trifluoroacetate | 0.30 mmol, 200.0 mg | FC(C(=O)[O-])(F)F.N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)/C=C\1/C(N(CC1)CC1=CC=[N+](C=C1)CC(NC1=CC(=C(C=C1)O)F)=O)=O
solvent | N,N-dimethylacetamide | 4 ml | CN(C(C)=O)C | C4H9NO
product | (E)-(6R,7R)-7-[2-(3,4-Dichloro-phenylsulfanyl)-acetylamino]-3-[1-[1-[(3-fluoro-4-hydroxy-phenylcarbamoyl)-methyl]-pyridin-1-ium-4-ylmethyl]-2-oxo-pyrrolidin-3-ylidenemethyl]-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylate | ClC=1C=C(C=CC1Cl)SCC(=O)N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)[O-])/C=C\1/C(N(CC1)CC1=CC=[N+](C=C1)CC(NC1=CC(=C(C=C1)O)F)=O)=O | C34H28Cl2FN5O7S2
